US05384241
9-Anthryl glycolate (2)
A suspension of 9-chloromethyl anthracene (1.0 g, 4.4 mmol) in dry acetonitrile (50 ml) is added to a solution of glycolic acid (0.71 g 18.8 mmol) (dried by successive evaporation from dry acetonitrile) in acetonitrile (10 ml). The reaction is stirred for 18 hours at room temperature and refluxed for 2 hours. After evaporation of acetonitrile the residue is redissolved in methylene chloride and extracted with water and 0.5M sodium bicarbonate. The solution is dried and solvent evaporated. The residue is recrystallized from refluxing benzene at 40° C. to yield 0.73 g (2.6 mmol) of yellow crystals.

reactant | 9-chloromethyl anthracene | 4.4 mmol, 1.0 g | ClCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H11Cl
reactant | glycolic acid | 18.8 mmol, 0.71 g | C(CO)(=O)O | C2H4O3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 9-Anthryl glycolate | 2.6 mmol, 0.73 g | C(CO)(=O)OC=1C2=CC=CC=C2C=C2C=CC=CC12 | C16H12O3
